US09376422B2
Step 1: Synthesis of methyl 5-chloro-2-[2-(trimethylsilyl)ethynyl]benzoate
To a solution of methyl 2-bromo-5-chlorobenzoate (14.8 g, 59 mmol) in TEA (124 ml, 890 mmol) was added copper(I) iodide (338 mg, 1:78 mmol) and triphenylphosphine (778 mg, 2.97 mmol) at room temperature under nitrogen. This mixture had nitrogen bubbled through it for 10 minutes before the addition of ethynyl(trimethyl)silane (12.45 ml, 89 mmol) and Pd(OAc)2 (266 mg, 1.19 mmol). The reaction mixture was stirred at 50° C. for 20 hours before being concentrated under reduced pressure. The residue was dissolved in deionized water (50 ml) and EtOAc (50 ml) and filtered through celite. The filter cake was washed with EtOAc (50 ml) before the phases were separated and the aqueous layer was extracted with EtOAc (2×50 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by FCC (10 g silica, Isolute cartridge, gradient of eluents; 99:1 Heptane:EtOAc to 85:15 Heptane:EtOAc) to give 16.2 g (102.4%) of the title compound as an orange oil that solidified upon standing and contained residual heptane. LC-MS 91%, m/z=267.4/268.9, 1H NMR (500 MHz, Chloroform-d) δ ppm 7.89 (d, J=2.2 Hz, 1H), 7.51 (d, J=8.3 Hz, 1H), 7.41 (dd, J=8.3, 2.3 Hz, 1H), 3.92 (s, 3H), 0.27 (s, 9H).

reactant | methyl 2-bromo-5-chlorobenzoate | 59 mmol, 14.8 g | BrC1=C(C(=O)OC)C=C(C=C1)Cl | C8H6BrClO2
reactant | ethynyl(trimethyl)silane | 89 mmol, 12.45 ml | C(#C)[Si](C)(C)C | C5H10Si
catalyst | copper(I) iodide | 78 mmol, 338 mg | [Cu]I
catalyst | Pd(OAc)2 | 1.19 mmol, 266 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | triphenylphosphine | 2.97 mmol, 778 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | methyl 5-chloro-2-[2-(trimethylsilyl)ethynyl]benzoate | 16.2 g, 102.4% | ClC=1C=CC(=C(C(=O)OC)C1)C#C[Si](C)(C)C | C13H15ClO2Si
